US05693185
B. Preparation of Caro's Acid/Peracetic Acid Mixture
The Caro's acid mixture was cooled to 25° C., and 240.0 g of glacial acetic acid (4.0 moles) was added at once with rapid stirring. Temperature of the mixture rose to 42° C. The mixture was cooled to 35° C. and stored for one hour. At the end of this period a sample of the mixture was removed to determine its residual hydrogen peroxide and its active oxygen content as peracid (assumed to be a mixture of Caro's acid and peracetic acid). This was done by first analyzing the sample for hydrogen peroxide by the standard ceric sulfate titration method. Potassium iodide was then added to the titrated sample and the active oxygen content of the sample was measured by titrating the iodine released (from the reaction of the iodide with the peracid) with sodium thiosulfate. The results are shown below:

reactant | Caro's acid | OOS(=O)(=O)O | H2O5S
reactant | acetic acid | 4.0 moles, 240.0 g | C(C)(=O)O | C2H4O2
product | Caro's Acid Peracetic Acid | OOS(=O)(=O)O.C(C)(=O)OO | InChI=1S/C2H4O3.H2O5S/c1-2(3)5-4;1-5-6(2,3)4/h4H,1H3;1H,(H,2,3,4)
